US07144899B2
N-[5-chloro-2-(1H-tetraazol-1-yl)benzyl]-1-[(9-hydroxy-9H-fluoren-9-yl)carbonyl]-D-prolinamide
Prepared by procedures similar to that described above in Example 8 from 9-hydroxy-9-fluorenylcarbonyl-L-proline and 1-[5-chloro-2-(1H-tetraazol-1-yl)phenyl]methanamine.

reactant | 9-hydroxy-9-fluorenylcarbonyl-L-proline | OC1(C2=CC=CC=C2C=2C=CC=CC12)C(=O)N1[C@H](C(=O)O)CCC1 | C19H17NO4
reactant | 1-[5-chloro-2-(1H-tetraazol-1-yl)phenyl]methanamine | ClC=1C=CC(=C(C1)CN)N1N=NN=C1 | C8H8ClN5
product | N-[5-chloro-2-(1H-tetraazol-1-yl)benzyl]-1-[(9-hydroxy-9H-fluoren-9-yl)carbonyl]-D-prolinamide | ClC=1C=CC(=C(CNC([C@@H]2N(CCC2)C(=O)C2(C3=CC=CC=C3C=3C=CC=CC23)O)=O)C1)N1N=NN=C1 | C27H23ClN6O3
